US05254718
Synthesis of 2-methoxy-2-oxoethyl lactate
2-Chloroethyl lactate (19.10 g, 0.125 mol) and methyl glycolate (11.26 g, 0.125 mol) in 250 mL of ethyl ether containing 0.125% tert-butylbenzene was added to 17.5 g Lipase P30 powder in duplicate reactions. The reaction mixtures were agitated on an orbital shaker (175 RPM) at room temperature for 8 hr and an additional equivalent of methyl glycolate was added. After agitation for a further 40 hr, the enzyme powders were removed by filtration and the filtrates were combined and evaporated. The resulting residue was chromatographed by flash chromatography (ethyl acetate/hexane, 22.5/77.5) to give the title compound as an oil (6.00 g, 15%--an approximately equal amount of product was recovered in fractions which also contained methyl glycolate): 1H NMR δ 1.49 (d, 3 H, J=7.0 Hz), δ 3.55 (bs, 1 H), δ 3.78 (s, 3 H), 8 4.43 (q, 1 H, i=6.9 Hz), δ 4.67 (d, 1 H, J=15.9 Hz), δ 4.76 (d, 1 H, J=15.9 Hz); 13C NMR 20.04, 52.09, 60.87, 66.67, 167.63, 174.62; HRMS calcd for C5H6O5Tms (M--CH3) 219.0688, obsd 219.0641.

reactant | 2-Chloroethyl lactate | 0.125 mol, 19.10 g | C(C(O)C)(=O)OCCCl | C5H9ClO3
reactant | methyl glycolate | 0.125 mol, 11.26 g | C(CO)(=O)OC | C3H6O3
reactant | ethyl ether | 250 mL | C(C)OCC | C4H10O
product | 2-methoxy-2-oxoethyl lactate | C(C(O)C)(=O)OCC(=O)OC | C6H10O5
